US03994890
By the procedure similar to that described in Example 1, 3-phenyl-5-methylindazole (4.17 g) and diethylaminoethyl chloride hydrochloride (5.16 g) were treated to obtain 4.0 g of 1-diethylaminoethyl-3-phenyl-5-methylindazole hydrochloride (m.p. 131°-133° C).

reactant | 3-phenyl-5-methylindazole | 4.17 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C | C14H12N2
reactant | diethylaminoethyl chloride hydrochloride | 5.16 g | Cl.C(C)N(CC)CCCl
product | 1-diethylaminoethyl-3-phenyl-5-methylindazole hydrochloride | 4.0 g | Cl.C(C)N(C(C)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1)CC | InChI=1S/C20H25N3.ClH/c1-5-23(6-2)15(4)18-14(3)12-13-17-19(18)20(22-21-17)16-10-8-7-9-11-16;/h7-13,15H,5-6H2,1-4H3,(H,21,22);1H
